US03998958
The hydrochloride salt of 2-imino-1-methylpiperidine (7.43 g.; 0.05 mole) is converted to free base by adding 5 mls. of 50% NaOH to an aqueous slurry (using a minimal amount of water) of the salt and then extracting with benzene. After drying over K2CO3 the benzene solution is stirred at room temperature and 5.96 g. (0.05 mole) of phenylisocyanate, dissolved in anhydrous benzene, is added dropwise. Cloudiness occurs and eventually solid precipitates from the solution. The reaction mixture is stirred at room temperature overnight (about 17 hours). The solid is collected, m.p. = 145°-158° C. The filtrate is taken to dryness in vacuo to give further solid material. Repeated recrystallizations of the combined solids from methanol yields the pure product, 1-phenyl-3-(1-methyl-2-piperidylidene)urea, m.p. = 160°-161° C.

reactant | 2-imino-1-methylpiperidine | 0.05 mole, 7.43 g | N=C1N(CCCC1)C | C6H12N2
reactant | NaOH | [OH-].[Na+]
reactant | water | O | H2O
reactant | phenylisocyanate | 0.05 mole | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-phenyl-3-(1-methyl-2-piperidylidene)urea | C1(=CC=CC=C1)NC(=O)N=C1N(CCCC1)C | C13H17N3O
